data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_394136_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])(/[C:7](=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:15])[H:14])[H:9]>>[C:1](\[N:6]([H:12])[H:13])(=[C:7](\[C:8]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])[H:15])[H:14])[H:9],51.4204875000118
MR_478212_0,[C:1]([C:3]1([H:13])[C:2]([O:6][H:10])([H:12])[O:7]1)([O:4][H:8])([O:5][H:9])[H:11]>>[C:1]([C:3]([C:2](=[O:6])[H:12])([O:7][H:10])[H:13])([O:4][H:8])([O:5][H:9])[H:11],43.21341500000884
MR_347528_1,[C@@:1]1([C:3]([C:6]([C:5]([N:7]([H:13])[H:14])=[O:10])=[C:8]([H:20])[H:21])([H:15])[H:16])([H:11])[C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[O:9]1>>[C:1]1([C:3]([C:6]([C:5]([N:7]([H:13])[H:14])=[O:10])=[C:8]([H:20])[H:21])([H:15])[H:16])([H:11])[C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[O:9]1,67.74301750003502
MR_118674_0,[N:1]([C:2]([N:5]([H:12])[H:13])=[O:7])([C:3]([N:6]([H:11])[H:14])=[O:8])[N:4]([H:9])[H:10]>>[N:1](=[C:2](/[N:5]([H:12])[H:13])[O:7][C:3]([N:6]([H:11])[H:14])=[O:8])\[N:4]([H:9])[H:10],51.69972499998451
MR_269297_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:5](=[N:4]/[N:7]([H:9])[H:13])[O:8][H:12])[N:6]([H:10])[H:11]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([C:5]([N:4]([N:7]([H:12])[H:13])[H:9])=[O:8])[N:6]([H:10])[H:11],48.19388249998994
MR_155640_0,[N:1]([C:2]([N:4]([H:10])[H:11])=[O:7])([N:3]([H:8])[H:9])/[C:5](=[N:6]/[H:12])[H:13]>>[N:1](=[C:2](/[N:4]([H:10])[H:11])[O:7]/[C:5](=[N:6]/[H:12])[H:13])\[N:3]([H:8])[H:9],55.98429500001046
MR_408859_2,[C:1](\[C:4]([H:19])([H:20])[H:21])(=[C:6](\[C:3]([H:16])([H:17])[H:18])[C:5]([C:2]([H:13])([H:14])[H:15])([C:7](=[C:8]([H:22])[H:23])[H:12])[O:9][H:10])[H:11]>>[C:1]([C:4]([H:19])([H:20])[H:21])(/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:5](/[C:2]([H:13])([H:14])[H:15])[O:9][H:10])([C:7](=[C:8]([H:22])[H:23])[H:12])[H:11],71.55821750003327
MR_55909_0,[C:1]1([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[C:7]([O:9][H:11])=[O:10])([N:8]([H:12])[H:13])[C:3]([H:14])([H:15])[C:4]1([H:16])[H:17]>>[C:1](=[C:2]([C:5]([H:18])([H:19])[H:20])[C:6]([H:21])([H:22])[H:23])([C:3]([C:4]([C:7]([O:9][H:11])=[O:10])([H:16])[H:17])([H:14])[H:15])[N:8]([H:12])[H:13],48.62999499995894
MR_498538_1,[C:1]([N:2]=[O:3])([H:4])([H:5])[H:6]>>[C:1]([N:2][O:3][H:6])([H:4])[H:5],61.254667499990845
MR_308653_1,[C@@:1]1([C:2]([H:9])([H:10])[H:11])([N:4]([H:7])[H:8])[N:3]([H:6])[O:5]1>>[C:1](=[C:2]([H:9])[H:10])([N:4]([H:7])[H:8])[O:5][N:3]([H:6])[H:11],38.93072749994246
MR_195604_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][O:7][H:9])(/[N:8]=[C:5](\[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:4]([C:2]([H:13])([H:14])[H:15])[N:8]1[C@:5]([C:3]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[H:12],66.37632249999001
MR_504684_1,[C:1]([C:2](=[O:7])[H:10])([N:4]([C:3]([H:13])([H:14])[H:15])[N:5]([H:11])[H:12])([O:6][H:8])[H:9]>>[C:1]1([N:4]([C:3]([H:13])([H:14])[H:15])[N:5]([H:11])[H:12])([H:9])[C:2]([O:7][H:8])([H:10])[O:6]1,55.70066500001317
MR_163338_2,[C:1]([C:2](=[O:5])[H:8])([O:3][H:6])([O:4][H:7])[H:9]>>[C:1]1([O:3][H:6])([O:4][H:7])[C:2]([H:8])([H:9])[O:5]1,62.25992250003884
MR_597230_0,[C@@:1]12([C:2]([H:15])([H:16])[H:17])[C@@:6]([N:4]([H:10])[H:11])([H:13])[C@:7]1([H:14])[N:3]([H:9])[C:5]([H:12])=[N:8]2>>[C:1]1([C:2]([H:15])([H:16])[H:17])([N:4]([H:10])[H:11])[C:6]([H:13])=[C:7]([H:14])[N:3]([H:9])[C:5]([H:12])=[N:8]1,35.620664999988634
MR_252121_0,[C:1](/[N:9]=[C:5](\[C:2]([H:15])([H:16])[H:17])[C:6]([C:3]([H:18])([H:19])[H:20])[C:7]([C:4]([H:21])([H:22])[H:23])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:9]1[C:5]([C:2]([H:15])([H:16])[H:17])=[C:6]([C:3]([H:18])([H:19])[H:20])[C@@:7]1([C:4]([H:21])([H:22])[H:23])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14],42.07826750002127
MR_242619_1,[C:1]([C:7]([C:6](=[C:8]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[N:10]([H:11])[H:12])[C:9]([C:4]([H:22])([H:23])[H:27])[C:5]([H:24])([H:25])[H:26])([H:13])([H:14])[H:15]>>[C:1]([C:7]1=[C:6]([N:10]([H:11])[H:12])[C:8]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])[C:9]1([C:4]([H:22])([H:23])[H:27])[C:5]([H:24])([H:25])[H:26])([H:13])([H:14])[H:15],40.23153500004682
MR_600179_1,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[N:6][N:7][H:9])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:10])[H:11]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:6][N:7][H:9])([H:10])[H:11],65.34659499998597
MR_234447_1,[C:1]1([O:8][H:9])([H:10])[C:2]([C:4]([C:3]([C:5]([H:17])([H:18])[H:19])([N:6]([H:13])[H:14])[H:12])([H:15])[H:16])([H:11])[O:7]1>>[C@:1]1([O:8][H:9])([H:10])[C:2]([C:4]([C@:3]([C:5]([H:17])([H:18])[H:19])([N:6]([H:13])[H:14])[H:12])([H:15])[H:16])([H:11])[O:7]1,62.06790749998859
MR_636047_1,[C:1]([C:2]([N:3]([H:7])[H:8])=[C:5]([H:12])[H:13])([C:4](=[O:6])[H:9])([H:10])[H:11]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[C:5]([C:4](=[O:6])[H:9])([H:12])[H:13])([H:10])[H:11],48.70278499998918
